US04147693
2-Chlorofuran-5-aldehyde is reacted with 1-amino-2-oxo-imidazolidine as in Example 1.1. 1-(5-Chlorofurylideneamino)- 2-oxo-imidazolidine of melting point 173°-175° C. is obtained.

reactant | 2-Chlorofuran-5-aldehyde | ClC=1OC(=CC1)C=O | C5H3ClO2
reactant | 1-amino-2-oxo-imidazolidine | NN1C(NCC1)=O | C3H7N3O
product | 1-(5-Chlorofurylideneamino)- 2-oxo-imidazolidine | ClC1=CCC(O1)=NN1C(NCC1)=O | C7H8ClN3O2
